US04109000
One gram of ethyl 5-(4-methoxybenzyl)picolinate was dissolved in 20 ml. of ethyl alcohol saturated with hydrochloric acid. The solution was heated in a sealed tube at 120° C. for 24 hours. The solvent was distilled out and the residue was added with cold water. Crystals thus formed were collected by filtration and recrystallized from ethyl acetate to obtain 0.8 g of ethyl 5-(4-hydroxybenzyl)-picolinate as colorless needle-like crystals of a melting point of 153°~156° C.

reactant | ethyl 5-(4-methoxybenzyl)picolinate | One gram | COC1=CC=C(CC=2C=CC(=NC2)C(=O)OCC)C=C1 | C16H17NO3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl alcohol | C(C)O | C2H6O
product | ethyl 5-(4-hydroxybenzyl)-picolinate | 0.8 g | OC1=CC=C(CC=2C=CC(=NC2)C(=O)OCC)C=C1 | C15H15NO3
